subckt ao41_x1 A1 A2 B1 B2 C X VDD VSS
AO41N40_PA0 (ao41_and_n A1 VDD VDD) pmos w=2u l=100n
AO41N40_PB0 (ao41_and_n A2 VDD VDD) pmos w=2u l=100n
AO41N40_PC0 (ao41_and_n B1 VDD VDD) pmos w=2u l=100n
AO41N40_PD0 (ao41_and_n B2 VDD VDD) pmos w=2u l=100n
AO41N40_ND0 (ao41_and_n B2 na4_3 VSS) nmos w=1u l=100n
AO41N40_NC0 (na4_3 B1 na4_2 VSS) nmos w=1u l=100n
AO41N40_NB0 (na4_2 A2 na4_1 VSS) nmos w=1u l=100n
AO41N40_NA0 (na4_1 A1 VSS VSS) nmos w=1u l=100n
AO41I40_P0 (ao41_and ao41_and_n VDD VDD) pmos w=2u l=100n
AO41I40_N0 (ao41_and ao41_and_n VSS VSS) nmos w=1u l=100n
AO41N20_PA0 (pmid_AO41N20_0 ao41_and VDD VDD) pmos w=2u l=100n
AO41N20_PB0 (ao41_or_n C pmid_AO41N20_0 VDD) pmos w=2u l=100n
AO41N20_NA0 (ao41_or_n ao41_and VSS VSS) nmos w=1u l=100n
AO41N20_NB0 (ao41_or_n C VSS VSS) nmos w=1u l=100n
AO41O0_P0 (X ao41_or_n VDD VDD) pmos w=2u l=100n
AO41O0_N0 (X ao41_or_n VSS VSS) nmos w=1u l=100n
ends ao41_x1
